US03987160
5-Methylsalicylamide (30.2 g; prepared as described in French Pat. No. M21) was dissolved in a solution of sodium (4.6 g.) in ethanol (200 ml.). Propyl iodide (37.4 g.) was added with stirring, and the mixture was stirred for 1 hour at room temperature and then under reflux for a further 19 hours. The mixture was concentrated to about 75 ml. and poured into water (300 ml.). The precipitated solid was filtered off and stirred with 2N sodium hydroxide solution (100 ml.). The insoluble solid was filtered off and washed with water to give crude 5-methyl-2-propoxybenzamide (37.5 g.), m.p. 112°-115° C.

reactant | 5-Methylsalicylamide | CC1=CC=C(C(C(=O)N)=C1)O | C8H9NO2
reactant | Propyl iodide | 37.4 g | C(CC)I | C3H7I
solvent | sodium | 4.6 g | [Na] | Na
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-methyl-2-propoxybenzamide | 37.5 g | CC=1C=CC(=C(C(=O)N)C1)OCCC | C11H15NO2
